US04999130
A solution of 915 mg (5 mM) of (+)-2-cyano-2methylhexanoic acid-ethyl-ester ([α]D +2.2 degrees (c 2.782, methanol)) in 8 ml of dry tetrahydrofuran was added dropwise to a mixture of 423 mg (10 mM) of anhydrous lithium chloride and 379 mg (10 mM) of sodium borohydride under stirring at room temperature. Then, 17 ml of dry ethanol was added thereto, followed by reaction for 18 hours at room temperature. After the reaction, the reaction mixture was cooled on an ice bath and acidified to pH 4 by adding 10% citric acid. A precipitate formed at that time was removed by filtration, and the solvent in the filtrate was removed by reduced pressure distillation. Then, 5 ml of distilled water was added to the remaining product, and the mixture was subjected to extraction with dichlocomethane. The organic layer was dried on sodium sulfate, and the solvent was distilled off under reduced pressure, followed further by distillation to obtain (-)-2-cyano-2-methylhexanol. Yield:63.8%, [α]D -1.2 degree (c 2.393, methylene chloride).

reactant | (+)-2-cyano-2methylhexanoic acid-ethyl-ester | 5 mM, 915 mg | C(C)OC(C(CCCC)(C)C#N)=O | C10H17NO2
reactant | lithium chloride | 10 mM, 423 mg | [Cl-].[Li+]
reactant | sodium borohydride | 10 mM, 379 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | (-)-2-cyano-2-methylhexanol | Yield:63.8% | C(#N)C(CO)(CCCC)C | C8H15NO
